US07524841B2
After dissolving 4-(aminomethyl)-4-fluoropiperidinecarboxylic acid tert-butyl ester (1071 mg, 4.61 mmol) in tetrahydrofuran (10 ml), FmocNCS (9-fluorenylmethoxycarbonyl isothiocyanate) (1425 mg, 5.07 mmol) was added and the mixture was stirred at room temperature overnight. After completion of the reaction, the mixture was concentrated and purified by silica gel column chromatography (hexane/ethyl acetate=10/1-5/1) to obtain 4-[({[(fluoren-9-ylmethoxy)carbonylamino] thioxomethyl}amino)methyl]-4-fluoropiperidinecarboxylic acid tert-butyl ester. The compound was identified by LC-MS.

reactant | 4-(aminomethyl)-4-fluoropiperidinecarboxylic acid tert-butyl ester | 4.61 mmol, 1071 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(F)CN | C11H21FN2O2
reactant | 9-fluorenylmethoxycarbonyl isothiocyanate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N=C=S | C16H11NO2S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-[({[(fluoren-9-ylmethoxy)carbonylamino] thioxomethyl}amino)methyl]-4-fluoropiperidinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(F)CNC(=S)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C27H32FN3O4S
